US06756380B1
To a solution of 3.00 g (9.72 mmol) 5-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidine-4-carboxylic acid ethyl ester in 15 ml ethanol a solution of 0.58 g (14.5 mmol) NaOH in 15 ml was added at RT and the reaction solution was stirred for 1 hr. The pH of the solution was than adjusted to 1 by addition of 25% HCl. The resulting solution was extracted twice with 100 ml CH2Cl2/methanol (2:1). The combined organic phases were dried (MgSO4), filtered and evaporated. The residue was suspended in 20 ml diisopropylether, filtered and dried to give 2.40 g (88%) 5-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidine-4-carboxylic acid as an off-white solid.

reactant | 5-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidine-4-carboxylic acid ethyl ester | 9.72 mmol, 3.00 g | C(C)OC(=O)C1=NC(=NC=C1C1=C(C=CC=C1)Cl)SC | C14H13ClN2O2S
reactant | NaOH | 14.5 mmol, 0.58 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidine-4-carboxylic acid | 2.40 g, 88% | ClC1=C(C=CC=C1)C=1C(=NC(=NC1)SC)C(=O)O | C12H9ClN2O2S
